US07329779B2
50.0 g (260 mmol) of p-toluenesulphonic acid monohydrate were suspended in 140 g of methylcyclohexane and heated to 50° C. with stirring. 99.9 g (831 mmol, 3.2 equivalents [eq.]) of thionyl chloride were then added dropwise over a period of 75 minutes at such a rate that moderate gas evolution was observed. After addition had ended, the mixture was stirred at 50° C. for a further 1 h. 20.1 g of excess thionyl chloride were then distilled off at a bottom temperature of 96° C. The residue was cooled to 5° C. and stirred at this temperature for 1 h. The precipitated solid was filtered off and washed with 50 ml of methylcyclohexane. After drying under reduced pressure, 22.2 g (52% of theory) of p-toluenesulphonic anhydride were isolated.

reactant | p-toluenesulphonic acid monohydrate | 260 mmol, 50.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | thionyl chloride | 831 mmol, 99.9 g, 3.2 equivalents | S(=O)(Cl)Cl | Cl2OS
solvent | methylcyclohexane | 140 g | CC1CCCCC1 | C7H14
product | p-toluenesulphonic anhydride | 22.2 g, 52% | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
